US07365197B2
A mixture of N′-(7-benzyloxy-3-cyano-6-methoxynaphthalen-2-yl)-N,N-dimethylformamidine and 0.092 g (0.48 mmol) of 2,4-dichloro-5-methoxyaniline in 4 mL of glacial acetic acid is heated under reflux for 7 hours, then cooled to room temperature and stirred overnight. The resulting solid is collected by filtration, washed with ether and dried to yield 0.05 g of (8-benzyloxy-7-methoxybenzo[g]quinazolin-4-yl)-(2,4-dichloro-5-methoxyphenyl)amine as a yellow solid, mp 275-280° C.

reactant | N′-(7-benzyloxy-3-cyano-6-methoxynaphthalen-2-yl)-N,N-dimethylformamidine | C(C1=CC=CC=C1)OC1=C(C=C2C=C(C(=CC2=C1)N=CN(C)C)C#N)OC | C22H21N3O2
reactant | 2,4-dichloro-5-methoxyaniline | 0.48 mmol, 0.092 g | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | (8-benzyloxy-7-methoxybenzo[g]quinazolin-4-yl)-(2,4-dichloro-5-methoxyphenyl)amine | 0.05 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C3C(=NC=NC3=C2)NC2=C(C=C(C(=C2)OC)Cl)Cl)C=C1OC | C27H21Cl2N3O3
